US09024051B2
N-t-butyldimethylsilyl-N-benzyl-3-aminopropylmethyldiethoxysilane
A flask equipped with a stirrer, reflux condenser, dropping funnel and thermometer was charged with 26.2 g (0.1 mol) of N-t-butyldimethylsilyl-N-benzyl-N-allylamine and 0.07 g of a toluene solution of platinum/1,3-divinyl-1,1,3,3-tetramethyldisiloxane complex (Pt concentration 3 wt %) and heated at 50° C. Once the internal temperature became steady, 13.4 g (0.1 mol) of methyldiethoxysilane was added dropwise over 1 hour. Stirring was continued at the temperature for a further 1 hour. The reaction solution was distilled, collecting 31.0 g of a fraction having a boiling point of 169-170° C./0.4 kPa.

reactant | N-t-butyldimethylsilyl-N-benzyl-N-allylamine | 0.1 mol, 26.2 g | [Si](C)(C)(C(C)(C)C)N(CC=C)CC1=CC=CC=C1 | C16H27NSi
reactant | methyldiethoxysilane | 0.1 mol, 13.4 g | C[SiH](OCC)OCC | C5H14O2Si
catalyst | platinum 1,3-divinyl-1,1,3,3-tetramethyldisiloxane | [Pt].C(=C)[Si](O[Si](C)(C)C=C)(C)C
solvent | toluene | 0.07 g | C1(=CC=CC=C1)C | C7H8
product | N-t-butyldimethylsilyl-N-benzyl-3-aminopropylmethyldiethoxysilane | [Si](C)(C)(C(C)(C)C)N(CCC[Si](OCC)(OCC)C)CC1=CC=CC=C1 | C21H41NO2Si2
